*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXF630ARA151MJH0G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXF630ARA151MJH0G_20deg-C 1 2

C1 4 2 1.13e-04
C2 5 2 1.56e-05
C3 6 2 1.08e-05
R1 3 4 1.04e-02
R2 4 5 1.62e-01
R3 5 6 3.42e+00
L1 1 3 5.00e-09

.ENDS
*$
